US06565829B2
Step 1: Preparation of tert-butyl 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethyl(methyl)carbamate
A solution of tert-butyl 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate (2.99 g, 6.98 mmol) in DMF (20.0 mL) was added to a 0° C. suspension of 60% sodium hydride (0.75 g, 18.82 mmol) in DMF (5.0 mL) and stirred at room temperature for one hour. Methyl iodide (0.55 mL, 8.83 mmol) was added and the reaction was stirred at room temperature for 22 hours. The reaction was cooled to 0° C., quenched with water (10.0 mL) and filtered. The filtrate was concentrated in vacuo, combined with the previously filtered solid and partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo and recrystallized from EtOAc/hexane to give 2.56 g (83%) of colorless crystals as the title compound: mp 147.1-149.0° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.15-8.10 (m, 1H), 7.92 (d, J=7.1 Hz, 2H), 7.62-7.53 (m, 5H), 3.67 (s, 3H), 3.32 (m, 2H), 2.91-2.88 (m, 2H), 2.79 (br, 3H), 2.33 (br, 3H), 1.35-0.99 (2 br, 9H); 13C NMR (100 MHz, DMSO-d6) δ 154.4, 142.9, 138.0, 137.1, 132.7, 130.4, 129.3, 126.9, 126.7, 119.0, 117.7, 109.9, 109.4, 77.7, 48.8, 33.7, 29.7, 27.9, 27.4, 22.0, 9.8; IR (diffuse reflectance) 1692, 1482, 1446, 1364, 1303, 1219, 1192, 1164, 1152, 1140, 1095, 725, 689, 655, 609 cm−1; HRMS (FAB) calcd for C24H30N2O4S+H 443.2004, found 443.2025. Anal. Calcd for C24H30N2O4S: C, 65.13; H. 6.83; N, 6.33. Found: C, 65.06; H, 6.86; N, 6.33.

reactant | tert-butyl 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | 6.98 mmol, 2.99 g | CN1C(=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCNC(OC(C)(C)C)=O)C | C23H28N2O4S
reactant | sodium hydride | 18.82 mmol, 0.75 g | [H-].[Na+]
reactant | Methyl iodide | 8.83 mmol, 0.55 mL | CI | CH3I
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]ethyl(methyl)carbamate | 2.56 g, 83% | CN1C(=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCN(C(OC(C)(C)C)=O)C)C | C24H30N2O4S
